US20010036946A1
1-(1,1-dimethylethoxycarbonyl)-4-[4-(phenylmethyl)-1-piperazinyl]piperidine from 1-(1,1-dimethylethoxycarbonyl)-4-piperidinone and 1-(phenylmethyl)piperazine Yield: 86.6% of theory. Colourless, amorphous substance Rf: 0.58 (eluant: dichloromethane/methanol 9/1 v/v)

reactant | 1-(1,1-dimethylethoxycarbonyl)-4-[4-(phenylmethyl)-1-piperazinyl]piperidine | CC(C)(OC(=O)N1CCC(CC1)N1CCN(CC1)CC1=CC=CC=C1)C | C21H33N3O2
reactant | 1-(1,1-dimethylethoxycarbonyl)-4-piperidinone | CC(C)(OC(=O)N1CCC(CC1)=O)C | C10H17NO3
product | 1-(phenylmethyl)piperazine | Yield: 86.6% | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
